US05051422
N-(3-chlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine
In a manner similar to Preparation 2, react N-(3-chlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide (13.6 g, 40.1 mmol) with lithium aluminum hydride (3.1 g, 81 mmol) to obtain thetitle compound.

reactant | N-(3-chlorophenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide | 40.1 mmol, 13.6 g | ClC=1C=C(C=CC1)NC(CNCC1=CC(=C(C=C1)OC)OC)=O | C17H19ClN2O3
reactant | lithium aluminum hydride | 81 mmol, 3.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-(3-chlorophenyl)-N'-[(3,4-dimethoxyphenyl)methyl]-1,2-ethanediamine | ClC=1C=C(C=CC1)NCCNCC1=CC(=C(C=C1)OC)OC | C17H21ClN2O2
